US07863269B2
17b) 6-Bromomethyl-3-ethoxy-2-fluoropyridine
3-Ethoxy-2-fluoro-6-methylpyridine (400 mg) was initially introduced in carbon tetrachloride (30 ml) and, after addition of N-bromosuccinimide (505 mg) and 2,2′-azobis(2-methylpropionitrile) (85 mg), the reaction mixture was heated at reflux for 7 h. After standing overnight at RT, it was treated with water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel (n-heptane-ethyl acetate gradient). After the combination of the product-containing fractions, it was brought to dryness. 393 mg of the desired compound were obtained.

reactant | 3-Ethoxy-2-fluoro-6-methylpyridine | 400 mg | C(C)OC=1C(=NC(=CC1)C)F | C8H10FNO
reactant | N-bromosuccinimide | 505 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 85 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | water | O | H2O
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromomethyl-3-ethoxy-2-fluoropyridine | 393 mg | BrCC1=CC=C(C(=N1)F)OCC | C8H9BrFNO
